US08859544B2
Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
3.8 g (27.89 mmol) of potassium carbonate and 1.74 ml (27.89 mmol) of methyl iodide are added, at ambient temperature under an inert atmosphere, to 10 g (23.24 mmol) of ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate in 100 ml of DMF. The reaction medium is heated at 90° C. for 1 h 30. The reaction medium is filtered through talc, diluted with dichloromethane, and then washed with water. The organic phase is dried with sodium sulphate and then concentrated under reduced pressure. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 9.1 g of a yellow solid are obtained.

reactant | potassium carbonate | 27.89 mmol, 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 27.89 mmol, 1.74 ml | CI | CH3I
reactant | ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | 23.24 mmol, 10 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O)C | C23H20N2O5
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 9.1 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=CN(C2=CC1)C)C(=O)OCC)=O)C | C24H22N2O5
